US04418138
2-Hydroxy-thioxanthone (4.56 g) was mixed with dimethylformamide (125 ml), ethyl 4-chlorobutyrate (6.02 g), potassium carbonate (2.80 g) and potassium iodide (0.50 g) and the mixture was stirred under reflux for four hours. The resulting mixture was poured carefully with stirring into cold distilled water. The yellow solid which precipitated, which is the ethyl ester of 2-(3-carboxypropoxy)thioxanthone, was collected by filtration and recrystallised from ethanol. The ethyl ester of 2-(3-carboxy-propoxy)thioxanthone (4.2 g) was dissolved in triethanolamine (50 ml) and a solution of potassium hydroxide (5.0 g) in distilled water (5 ml) and ethanol (20 ml) was slowly added with stirring. The resulting mixture was stirred under reflux for two hours, cooled, poured into a large excess of distilled water, and then acidified with hydrochloric acid. The resulting yellow precipitate was filtered off and recrystallised from ethanol to give 2-(3-carboxy-propoxy)thioxanthone.

reactant | 2-Hydroxy-thioxanthone | 4.56 g | OC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H8O2S
reactant | ethyl 4-chlorobutyrate | 6.02 g | ClCCCC(=O)OCC | C6H11ClO2
reactant | potassium carbonate | 2.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.50 g | [I-].[K+]
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 2-(3-carboxy-propoxy)thioxanthone | C(=O)(O)CCCOC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C17H14O4S
